US07842685B2
Synthesis of 1-(3-fluoro-4-(5-(1-phenylcyclobutyl)thiazolo[5,4-b]pyridine-2-yl)benzyl)azetidine-3-carboxylic acid
A solution of N,Ndimethylacetamide (0.320 mL, 3.46 mmol) in 30 mL anhyd. 1,2-DCE in a 3-neck flask under argon fitted with addition funnel was cooled to −17° C. with ice/salt. Trifluoromethanesulfonic anhydride (0.679 mL, 4.04 mmol) was added over 2 min by syringe, and the reaction mixture became yellow and the temperature rose to −13° C. After 5 min, a solution of 2,6-di-tert-butylpyridine (0.893 mL, 4.04 mmol) and 2-(2-fluoro-4-methylphenyl)-5-(1-phenylvinyl)thiazolo[5,4-b]pyridine (1.00 g, 2.89 mmol) in 15 mL DCE was added slowly dropwise via addition funnel over 10 min. The reaction was fitted with a water-cooled reflux condenser and placed in a 110° C. oil bath. After 1 h, the reaction mixture was allowed to cool to ambient temperature overnight. 45 mL water was added and the reaction mixture reheated to 110° C. After 7 h, the reaction mixture was cooled, layers separated, and the aqueous layer was extracted with DCM. The combined organics were dried over sodium sulfate, filtered, and concentrated. The crude material was adsorbed onto 5 g silica gel and purify by silica gel chromatography, 0-100% EA/hexanes to give a yellow solid containing the desired product. This was further purified by trituration with diethyl ether to give 3-(2-(2-fluoro-4-methylphenyl)-thiazolo[5,4-b]pyridine-5-yl)-3-phenylcyclobutanone as a light yellow solid. MS (ESI) m/z: calculated: 388.1; Observed: 389.1 (M++1).

reactant | Trifluoromethanesulfonic anhydride | 4.04 mmol, 0.679 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 2,6-di-tert-butylpyridine | 4.04 mmol, 0.893 mL | C(C)(C)(C)C1=NC(=CC=C1)C(C)(C)C | C13H21N
reactant | 2-(2-fluoro-4-methylphenyl)-5-(1-phenylvinyl)thiazolo[5,4-b]pyridine | 2.89 mmol, 1.00 g | FC1=C(C=CC(=C1)C)C=1SC2=NC(=CC=C2N1)C(=C)C1=CC=CC=C1 | C21H15FN2S
reactant | water | O | H2O
reactant | water | 45 mL | O | H2O
reactant | DCE | 15 mL | ClCCCl | C2H4Cl2
product | 1-(3-fluoro-4-(5-(1-phenylcyclobutyl)thiazolo[5,4-b]pyridine-2-yl)benzyl)azetidine-3-carboxylic acid | FC=1C=C(CN2CC(C2)C(=O)O)C=CC1C=1SC2=NC(=CC=C2N1)C1(CCC1)C1=CC=CC=C1 | C27H24FN3O2S
